US07279481B2
1-[3-(2-Hydroxyethyl)phenyl]-2-pyrrolidinone
The title compound was prepared in 15% yield according to the general procedure for the preparation of the amides, ureas and carbamates (Method A) starting from 2-(3-bromophenyl)ethanol and 2-pyrrolidinone. Purification was achieved by flash chromatography on silica gel eluting with ethyl acetate.

reactant | 2-(3-bromophenyl)ethanol | BrC=1C=C(C=CC1)CCO | C8H9BrO
reactant | 2-pyrrolidinone | N1C(CCC1)=O | C4H7NO
product | 1-[3-(2-Hydroxyethyl)phenyl]-2-pyrrolidinone | 15% yield | OCCC=1C=C(C=CC1)N1C(CCC1)=O | C12H15NO2
